US08133909B2
N-(2,5-Dimethyl-2H-pyrazol-3-yl)-2-oxo-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide
To a solution of N-(2,5-dimethyl-2H-pyrazol-3-yl)-2-oxo-2-phenyl-acetamide (200 mg, 0.82 mmol) in DMF (2 mL) was added at 0° C. potassium bis(trimethylsilyl)amide (0.91 M in THF, 1.1 mL, 0.99 mmol) over a period of 5 min. The ice bath was removed and the solution was stirred for 1 h at ambient temperature. After the addition of 1-(2-bromo-ethyl)-4-trifluoromethyl-benzene (which might be prepared according to WO2005123748, 250 mg, 0.99 mmol) the reaction mixture was stirred for 18 h at ambient temperature. After the addition of cesium carbonate (1.40 g, 4.11 mmol) and further 1-(2-bromo-ethyl)-4-trifluoromethyl-benzene (996 mg, 3.95 mmol) it was stirred for 20 h at ambient temperature. The resulting mixture was diluted with TBME (15 mL) and washed twice with water (10 mL) and brine (10 mL). The combined aqueous layers were extracted with TBME (15 mL) and the combined organic layers were dried over sodium sulfate. Concentration and purification by chromatography (SiO2, heptane:ethyl acetate=95:5 to 60:40) afforded the title compound (113 mg, 33%) as a light brown oil. MS m/e: 416.3 [M+H]+.

reactant | N-(2,5-dimethyl-2H-pyrazol-3-yl)-2-oxo-2-phenyl-acetamide | 0.82 mmol, 200 mg | CN1N=C(C=C1NC(C(C1=CC=CC=C1)=O)=O)C | C13H13N3O2
reactant | potassium bis(trimethylsilyl)amide | 0.99 mmol, 0.91 M, 1.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 1-(2-bromo-ethyl)-4-trifluoromethyl-benzene | 0.99 mmol, 250 mg | BrCCC1=CC=C(C=C1)C(F)(F)F | C9H8BrF3
reactant | cesium carbonate | 4.11 mmol, 1.40 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(2-bromo-ethyl)-4-trifluoromethyl-benzene | 3.95 mmol, 996 mg | BrCCC1=CC=C(C=C1)C(F)(F)F | C9H8BrF3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | TBME | 15 mL | CC(C)(C)OC | C5H12O
product | N-(2,5-Dimethyl-2H-pyrazol-3-yl)-2-oxo-2-phenyl-N-[2-(4-trifluoromethyl-phenyl)-ethyl]-acetamide | 113 mg, 33% | CN1N=C(C=C1N(C(C(C1=CC=CC=C1)=O)=O)CCC1=CC=C(C=C1)C(F)(F)F)C | C22H20F3N3O2
